US09301951B2
Intermediate 251d: tert-butyl 16-(3-(4-(diethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oate
To a solution of 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide (1.77 g, 4.0 mmol), 3-(2,2-dimethyl-4-oxo-3,7,10,13,16-pentaoxanonadecan-19-yl)benzoic acid (1.70 g, 3.86 mmol) and DIPEA (1.47 g, 11.4 mmol) in DMF (20 ml) was added HATU (1.56 g, 4.10 mmol). The reaction mixture was stirred for 30 minutes, at which time additional 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide (0.06 g, 0.14 mmol) was added. After stirring an additional 25 minutes, the reaction mixture was concentrated under vacuum. The residue was dissolved in DCM (200 mL), washed with water (4×50 mL), dried (Na2SO4) and concentrated to dryness. Purification by flash chromatography on silica gel (50% to 100% EtOAc in hexanes) gave the title compound (2.58 g) as an oil.

reactant | 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 4.0 mmol, 1.77 g | NC1=C(C=C(C=C1)N(CC)CC)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1 | C24H25F3N4O
reactant | 3-(2,2-dimethyl-4-oxo-3,7,10,13,16-pentaoxanonadecan-19-yl)benzoic acid | 3.86 mmol, 1.70 g | CC(C)(OC(CCOCCOCCOCCOCCCC=1C=C(C(=O)O)C=CC1)=O)C | C23H36O8
reactant | DIPEA | 11.4 mmol, 1.47 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 4.10 mmol, 1.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | 2-(2-amino-5-(diethylamino)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 0.14 mmol, 0.06 g | NC1=C(C=C(C=C1)N(CC)CC)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1 | C24H25F3N4O
product | tert-butyl 16-(3-(4-(diethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oate | 2.58 g | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)CCCOCCOCCOCCOCCC(=O)OC(C)(C)C)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C47H59F3N4O8
